US06900309B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(4-morpholinyl)ethyl]-9H-purine-2-carboxamide
A mixture of methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 18) (92 mg, 0.18 mmol) and N-(2-aminoethyl)morpholine (0.25 ml, 1.9 mmol) were heated at 120° C. under a nitrogen atmosphere for 75 minutes. The reaction mixture was allowed to cool to room temperature and diethyl ether (2 ml) added to precipitate the title compound as a white solid which was filtered off and dried (68 mg).

reactant | methyl 9-[(2R,3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.18 mmol, 92 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C26H27N5O6
reactant | N-(2-aminoethyl)morpholine | 1.9 mmol, 0.25 ml | NCCN1CCOCC1 | C6H14N2O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-N-[2-(4-morpholinyl)ethyl]-9H-purine-2-carboxamide | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCOCC1 | C31H37N7O6
